US06248756B1
Step A: Preparation of N-tert-butoxycarbonyl-4-hydroxypiperidine
To a solution of 4-hydroxypiperidine (22.9 g, 226.4 mmol), triethylamine (33 mL, 242 mmol) in dichloromethane (250 mL), a solution of di-tert-butyl dicarbonate in dichloromethane (100 mL) was added over a period of over 1 h. The resulting solution was stirred at room temp. overnight. The reaction mixture was washed with aqueous potassium hydrogen sulfate, and brine. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to afford the title compound.

reactant | 4-hydroxypiperidine | 226.4 mmol, 22.9 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 242 mmol, 33 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-tert-butoxycarbonyl-4-hydroxypiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
